US08980877B2
(E)-3-{1′-[2-(4-Fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (85 mg, 0.18 mmol) in DCM (8 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-{1′-[2-(4-fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-N-hydroxy-acrylamide (65 mg, hydrochloride salt) as as a light brown solid.

reactant | (E)-3-{1′-[2-(4-Fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.18 mmol, 85 mg | FC1=CC=C(C=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C27H29FN2O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-{1′-[2-(4-fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-N-hydroxy-acrylamide | 65 mg | FC1=CC=C(C=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C22H21FN2O4
